US05091432
0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to 1.85 g (25.0 mmol) of 1,3-diaminopropane in a 10 ml round bottom flask equipped with a magnetic stirring bar. The solution was stirred at room temperature for two hours. 10 ml ether was added and the solution was stirred for a few minutes. The ether solution was decanted, leaving an oil residue. 5 ml of acetonitrile and 4 ml of ether were added and the solution was stirred. Methanol was added dropwise until a precipitate had formed. The solution was filtered and washed with acetonitrile and ether, to yield 205 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(3-aminopropyl)propanamide (AIT-0074). m.p. 172°-175° C. Yield: 73%

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | 1,3-diaminopropane | 25.0 mmol, 1.85 g | NCCCN | C3H10N2
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | ether | 4 ml | CCOCC | C4H10O
solvent | Methanol | CO | CH4O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(3-aminopropyl)propanamide | 205 mg, Yield: 73% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCCN | C11H16N6O2
